US07700599B2
1,1-Dimethylethyl(2S)-4-[(3-fluoro-4-nitrophenyl)methyl]-2-methyl-1-piperazinecarboxylate (D62)
A solution of 4-(bromomethyl)-2-fluoro-1-nitrobenzene (232 mg, 1 mmol) and Hunig's base (0.192 mL, 1.1 mmol) in DMF (3 mL) was treated with 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (200 mg, 1 mmol) in DMF (3 mL) and stirred at room temperature for 20 minutes. The reaction mixture was concentrated, re-dissolved in DCM and washed with water and brine, then dried and concentrated. The crude product was purified by column chromatography. Elution with EtOAc/pentane yielded the title compound as a colourless gum (327 mg). δH (CDCl3, 400 MHz) 8.03 (1H, m), 7.34 (1H, dd), 7.27 (1H, m), 4.22 (1H, br.s), 3.84 (1H, d), 3.58 (1H, d), 3.47 (1H, d), 3.13 (1H, td), 2.72 (1H, m), 2.54 (1H, m), 2.22 (1H, dd), 2.09 (1H, m), 1.46 (9H, s), 1.26 (3H, d) [δvalues corrected for incorrectly referenced TMS at 0.62 ppm on spectrum].

reactant | 4-(bromomethyl)-2-fluoro-1-nitrobenzene | 1 mmol, 232 mg | BrCC1=CC(=C(C=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | Hunig's base | 1.1 mmol, 0.192 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 1 mmol, 200 mg | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl(2S)-4-[(3-fluoro-4-nitrophenyl)methyl]-2-methyl-1-piperazinecarboxylate | 327 mg | FC=1C=C(C=CC1[N+](=O)[O-])CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H24FN3O4
